* ==========================================================================
* @part: 74HC10 (14-pin package)
* @family: logic
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
.subckt 74HC10m 1 2 3 4 5 6 7 8 9 10 11 12 13 14

.SUBCKT 74HC10  1A 1B 1C 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 nand(3) DPWR DGND
+     1A 1B 1C 1Y
+     DLY_HC10 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC10 ugate (tplhTY=10ns tplhMX=19ns tphlTY=10ns tphlMX=19ns)
.ENDS  74HC10

X1 1 2 13 12 74HC10
X2 3 4 5 6 74HC10
X3 9 10 11 8 74HC10

.ends
